Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
___ Intubation 

 
History of Present Illness:
Young appearing male of unclear age with reported past medical
history of polysubstance abuse presents after being found down.

Per EMS report the patient was found lying on a park bench in 
the
public area.  Bystanders reported no seizure-like activity.  He
is transported to the ___ emergency room where he was
somnolent and unable to answer any questions.  Due to his
unresponsiveness and evidence of vomit around his mouth he was
intubated for airway protection.

In the ED,  

Initial Vitals: T 97.3 HR 81 BP ___ RR 18 o2 Sat 96% on
room air 

Exam:  
General: Somnolent, unarousable
HEENT: Emesis around the mouth, atraumatic head, pupils are 
equal
and reactive to light
Cardiac: RRR , no chest tenderness
Pulmonary: Clear to auscultation bilaterally with good aeration,
no crackles/wheezes
Abdominal/GI: Normal bowel sounds, no tenderness or masses
Renal: No CVA tenderness
MSK: No deformities or signs of trauma, no focal deficits noted.
Patient was rolled, midline stepoffs appreciated. No injuries to
the axilla or perineum b/l
Neuro: Somnolent, not arousable

Labs: Lactate 3.1, lipase 590, ALT 44, AST 99, CK 2782

Imaging: CT head was unremarkable

Interventions:
Rocuronium 100 mg and ketamine 100 mg for intubation.  Started 
on
fentanyl and propofol drips.  
2 L LR

VS Prior to Transfer:  
T 98.1, HR 62 BP 106/60 RR 1699% on AC 420x16 50% FiO2 and 5 of
PEEP

On arrival to the SICU he is intubated and sedated with no
identifying documents.

ROS: Unable to obtain due to clinical condition 
 
Past Medical History:
Systolic ejection murmur since childhood
Alcohol Use Disorder
Homelessness
 
Social History:
___
Family History:
Was in Foster care, does not know his biological parents. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VS: T 97.6 HR 64 BP 118/81 RR 13 O2 sat 99% on ventilator
GEN: Generally well-appearing ___ gentleman,
intubated and sedated
HEENT: Pinpoint pupils are reactive bilaterally, NC/AT
NECK: JVP not elevated
CV: Regular rate and rhythm no murmurs rubs or gallops
RESP: Mechanical breath sounds bilaterally
GI: Soft, nondistended, normoactive bowel sounds
SKIN: Warm and well-perfused
NEURO: Pinpoint pupils, reactive to light bilaterally.  
Withdraws
to pain in 4 extremities.  Does not respond to voice.
PSYCH: Intubated and sedated

DISCHARGE PHYSICAL EXAM:
=========================  
Vitals: ___ 0733 Temp: 98.5 PO BP: 127/73 HR: 50 RR: 18 O2 
sat: 97% O2 delivery: Ra 
General: Alert, in no acute distress  
HEENT: Sclera anicteric, MMM
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
CV: regular rate and rhythm, normal S1 + S2, systolic ejection 
murmur best heard at RUSB which minimizes when seated upright
Abdomen: soft, non-tender to light and deep palpation,
non-distended, bowel sounds present
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: no focal neurologic deficits, non-tremulous
Psych: mood, affect appropriate. Not agitated.
 
Pertinent Results:
ADMISSION LABS
================
Admission labs notable for: Lactate 3.1, lipase 590, ALT 44, AST 
99, CK 2782

All results:
CBC w/ diff
___ 11:13PM BLOOD WBC-6.3 RBC-4.49* Hgb-13.7 Hct-43.6 
MCV-97 MCH-30.5 MCHC-31.4* RDW-14.4 RDWSD-51.3* Plt ___
___ 11:13PM BLOOD Neuts-50.9 ___ Monos-12.0 Eos-2.1 
Baso-0.8 Im ___ AbsNeut-3.23 AbsLymp-2.15 AbsMono-0.76 
AbsEos-0.13 AbsBaso-0.05

Coags
___ 11:13PM BLOOD ___ PTT-28.8 ___

BMP
___ 11:13PM BLOOD Glucose-98 UreaN-10 Creat-0.9 Na-144 
K-5.5* Cl-109* HCO3-21* AnGap-14

LFTs
___ 11:13PM BLOOD ALT-44* AST-99* CK(CPK)-2782* AlkPhos-77 
TotBili-0.2

Lytes
___ 11:13PM BLOOD Albumin-4.6 Calcium-8.9 Phos-4.0 Mg-2.2

Blood Tox
___ 11:13PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG

ABG
___ 12:20AM BLOOD Type-ART pO2-86 pCO2-48* pH-7.35 
calTCO2-28 Base XS-0

Lactate
___ 11:13PM BLOOD Lactate-3.1* K-4.5

DISCHARGE LABS
===============
Discharge labs notable for: Lactate 1.7, ALT 30, AST 38, CK 662

CBC
___ 06:50AM BLOOD WBC-5.6 RBC-4.00* Hgb-12.1* Hct-38.7* 
MCV-97 MCH-30.3 MCHC-31.3* RDW-13.9 RDWSD-49.7* Plt ___

Coags
___ 06:50AM BLOOD ___

BMP
___ 06:50AM BLOOD Glucose-112* UreaN-12 Creat-1.0 Na-143 
K-4.4 Cl-105 HCO3-26 AnGap-12

LFTs
___ 06:50AM BLOOD ALT-30 AST-38 CK(CPK)-662*

Lytes
___ 06:50AM BLOOD Calcium-9.2 Phos-3.3 Mg-2.0

Other
___ 12:20AM BLOOD Lactate-1.7
___ 12:20AM BLOOD O2 Sat-92 ___ MetHgb-1

IMAGING
=========
CHEST (PORTABLE AP) Study Date of ___ 11:15 ___ 
FINDINGS:  
Enteric tube is seen coursing past the left hemidiaphragm and 
terminating in the left upper quadrant, in the expected region 
of the stomach. The 
endotracheal tube terminates approximately 5 cm above the 
carina.  Lungs are fully expanded and clear.  Cardiomediastinal 
and hilar silhouettes and pleural margins are normal. 
IMPRESSION:  
Endotracheal tube terminates approximately 5 cm above the 
carina. 

CT HEAD W/O CONTRAST Study Date of ___ 11:31 ___ 
FINDINGS:  
There is no evidence of acute large territory infarction, 
intracranialhemorrhage,edema,or discrete mass.  The ventricles 
and sulci are normal in size and configuration. 
No acute fracture.  Mild mucosal thickening of the ethmoid 
sinuses.  
Otherwise, the visualized portion of the paranasal sinuses 
demonstrate mild mucosal thickening in the ethmoidal air cells, 
no air-fluid levels are seen.  Mastoid air cells, and middle ear 
cavitiesare essentially clear, soft tissue density in the left 
external auditory canal is consistent with cerumen.  The 
visualized portion of the orbits are unremarkable. 
IMPRESSION:  
There is no evidence acute intracranial process or hemorrhage. 

EKG ___ 00:04:19
Sinus rhythm

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
===================
___ with alcohol and marijuana use, and homelessness presenting 
with alcohol intoxication c/b brief intubation, transferred to 
floor on ___ on ___.

TRANSITIONAL ISSUES
===================
[ ] Patient has no PCP and will need to establish care with a 
physician.
[ ] Please continue substance use counseling and continue to 
reassess readiness to quit alcohol. 
[ ] Patient has systolic murmur on exam, occasional palpitations 
but no known family history and no prior syncope. Patient states 
he has had it since childhood. ___ consider a TTE in the 
outpatient setting. 

ACUTE ISSUES 
=============== 
#Toxic metabolic encephalopathy 
#Acute hypoxemic respiratory failure 
Patient was found down likely in the setting of acute alcohol 
intoxication given alcohol level of 494. No obvious signs of 
trauma or seizure activity to suggest alternative etiology. 
Self-extubated morning of ___ with subsequent baseline mental 
status. 

#Rhabdomyolysis
CK 2782 on admission without urinary changes likely in the 
setting of being found down, but initial consideration to toxic 
ingestion. Fortunately without renal dysfunction. CK 
down-trended appropriately with ___ of fluids, as well as PO 
intake once extubated. 

#Alcohol use disorder 
#Alcoholic hepatitis 
Presenting with elevated alcohol level and LFTs suggestive of 
mild alcoholic hepatitis. MDF was low - no indication for 
steroids. He was started on appropriate vitamins and 
supplements, as well. Patient was placed on CIWA but did not 
trigger for Ativan through admission. He also required no doses 
of diazepam. Provided multivitamin, folate, thiamine on 
discharge. Social work was consulted but patient does not wish 
to cease alcohol use at this time.

#Homelessness
Patient seen by social work and reports being banned at ___ for alcohol use and/or altercation and subsequently 
barred from other shelters as well. Patient reports that ban 
will lift prior to ___, and that he prefers sleeping outside 
now and declined other shelter referrals; he has been homeless 
since leaving foster care at the age of ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 capsule(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol Intoxication requiring intubation
Rhabdomyolysis
Homelessness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you were found confused and 
intoxicated. We placed a breathing tube because we were worried 
you could not breathe on your own. You were admitted to the 
intensive care unit briefly and when you started feeling better, 
the breathing tube was removed. We watched you closely for 
alcohol withdrawal, which can cause serious damage to your 
health. Thankfully, you had no withdrawal symptoms.

WHAT SHOULD I DO ONCE I LEAVE THE HOSPITAL
===============================================
- We encourage you to call ___ the Homeless 
______) to make a new appointment with the ___ 
___ (___) Clinic. You can also try to walk in for an 
appointment. Contact information is:

___ for the Homeless ___
Phone: ___

- We encourage you to cut down or quit drinking alcohol. We 
encourage you to see a primary care doctor to continue talking 
about this.

- We prescribed you folate, thiamine, and a multivitamin. These 
are important to take if you plan to continue drinking alcohol.

We wish you the best!

Sincerely,
Your care team at ___ 
 
Followup Instructions:
___